US04275166
Creatinine is catalytically hydrolyzed to ammonia by the enzymatic activity of an unknown creatinine iminohydrolase enzyme sample, and the resultant ammonia reacts with the reagent α-ketoglutaric acid in the presence of GDH as catalyst to produce glutamic acid. The latter reaction catalyzed by GDH concomitantly converts NADPH to NADP, the disappearance of the NADPH absorption peak at 340 nm providing the spectroscopically detectable means for monitoring the assay. That is, the NADPH disappearance rate measures the rate of glutamic acid production which, in turn, measures the rate of ammonia production. The reaction mixture employed in the GDH assay method contained, in a total volume of one milliliter of 0.1 M N,N-bis(2-hydroxyethyl)-glycine-KOH buffer solution having a pH of 7.5: 0.4 mg (ethylenedinitrilo) tetraacetic acid, disodium salt (Na2EDTA), 1.6 mg α-ketoglutaric acid, 0.24 mg NADPH, 15 units GDH (ammonia free), and 4.52 mg creatinine. One unit of L-glutamic dehydrogenase is defined as that amount of enzyme which catalyzes the reduction of 1 micromole of α-ketoglutarate to glutamate per minute at pH 7.6 and 37° C. Reaction was initiated in the above-noted reaction mixture by addition of a small sample (about 2-10 milliunits) of the desired creatinine iminohydrolase enzyme preparation after equilibration of the reaction mixture at 37° C. Creatinine iminohydrolase activity was calculated by measuring the rate of NADPH disappearance at 340 nm (the molar extinction coefficient of NADPH at 340 nm being 6.22×103) in a Beckman Model 25 spectophotometer. One unit of enzyme activity was defined as that amount of enzyme necessary to catalyze the conversion of 1 micromole of creatinine to 1 micromole of ammonia per minute under the above-noted GDH assay reaction conditions.

reactant | Creatinine | CN1CC(=O)N=C1N | C4H7N3O
reactant | ammonia | N | H3N
reactant | α-ketoglutaric acid | O=C(C(=O)O)CCC(=O)O | C5H6O5
product | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
